US07777047B2
N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-isopropylthiophene-2-sulfonamide
A mixture of N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-isopropylthiophene-2-sulfonamide (2.12 g), thionyl chloride (0.70 ml), N,N-dimethylformamide (two drop) and tetrahydrofuran (30 ml) was stirred overnight at room temperature. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with saturated brine, aqueous sodium bicarbonate and saturated brine, dried (MgSO4), and concentrated. The residue was crystallized from diethyl ether, and the crystals were collected by filtration, washed with diethyl ether, and dried to give the title compound (2.00 g, yield 90%) as yellow crystals. melting point 184-185° C.

reactant | N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-isopropylthiophene-2-sulfonamide | 2.12 g | OCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C(C)C | C19H19N3O3S3
reactant | thionyl chloride | 0.70 ml | S(=O)(Cl)Cl | Cl2OS
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | two drop | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-isopropylthiophene-2-sulfonamide | 2.00 g, yield 90% | ClCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C(C)C | C19H18ClN3O2S3
